US09255089B2
4-(3,5-Dimethylisoxazol-4-yl)-N1-ethyl-6-iodobenzene-1,2-diamine (105 mg, 0.29 mmol), 6-methylquinolin-5-ylboronic acid (274.86 mg, 1.47 mmol), 1,8-Diazabicyclo[5.4.0]undec-7-ene (0.26 mL, 1.76 mmol), 1-Methyl-2-pyrrolidinone (5 mL), and water (2 mL) were placed in microwave vial, pre-stirred for 2 minutes, then heated to 110° C. for 15 minutes. Reaction mixture was diluted with EtOAc and aqueous ammonium chloride and extracted with EtOAc (3 times). Organics were washed with ammonium chloride, water and brine and dried over sodium sulfate. Solvent was evaporated to dryness. Crude material was purified by silica gel chromatography (DCM/MeOH as eluent) to afford 4-(3,5-dimethylisoxazol-4-yl)-N1-ethyl-6-(6-methylquinolin-5-yl)benzene-1,2-diamine.

reactant | 4-(3,5-Dimethylisoxazol-4-yl)-N1-ethyl-6-iodobenzene-1,2-diamine | 0.29 mmol, 105 mg | CC1=NOC(=C1C=1C=C(C(=C(C1)I)NCC)N)C | C13H16IN3O
reactant | 6-methylquinolin-5-ylboronic acid | 1.47 mmol, 274.86 mg | CC=1C(=C2C=CC=NC2=CC1)B(O)O | C10H10BNO2
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 1.76 mmol, 0.26 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 1-Methyl-2-pyrrolidinone | 5 mL | CN1C(CCC1)=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | water | 2 mL | O | H2O
product | 4-(3,5-dimethylisoxazol-4-yl)-N1-ethyl-6-(6-methylquinolin-5-yl)benzene-1,2-diamine | CC1=NOC(=C1C=1C=C(C(=C(C1)C1=C2C=CC=NC2=CC=C1C)NCC)N)C | C23H24N4O
